US04346087
Into an apparatus similar to that in Example 1, were charged 242.1 g (1 mole) of N-dodecyl-1,3-propylenediamine and 130.1 g (1 mole) of ethyl acetoacetate. At 150° to 160° C., 18 g of water and 46 g of ethanol were distilled off to obtain 1-dodecyl-4-methyl-3,6,7,8-tetrahydro-1,5-diazocin-2-one.

reactant | N-dodecyl-1,3-propylenediamine | 1 mole, 242.1 g | C(CCCCCCCCCCC)NCCCN | C15H34N2
reactant | ethyl acetoacetate | 1 mole, 130.1 g | C(CC(=O)C)(=O)OCC | C6H10O3
product | 1-dodecyl-4-methyl-3,6,7,8-tetrahydro-1,5-diazocin-2-one | C(CCCCCCCCCCC)N1C(CC(=NCCC1)C)=O | C19H36N2O
